US04775677
Methyl[3-cyclohexyl-2-(cyclohexylimino)-4-oxo-5-thiazolidinylidene]acetate
A mixture of N,N'-dicyclohexylthiourea (10.0 g, 42 mmoles) and dimethylacetylenedicarboxylate (7.8 g, 55 mmoles) in methanol (100 mls) is stirred at room temperature for 16 hours, then warmed on a steambath for 45 minutes and cooled. The precipitate is filtered off, rinsed with cold methanol and dried. This gave the product as white crystals, (11.3 g), mp 97°-98° C.

reactant | N,N'-dicyclohexylthiourea | 42 mmoles, 10.0 g | C1(CCCCC1)NC(=S)NC1CCCCC1 | C13H24N2S
reactant | dimethylacetylenedicarboxylate | 55 mmoles, 7.8 g | COC(=O)C#CC(=O)OC | C6H6O4
solvent | methanol | 100 mls | CO | CH4O
product | Methyl[3-cyclohexyl-2-(cyclohexylimino)-4-oxo-5-thiazolidinylidene]acetate | 11.3 g | COC(C=C1C(N(C(S1)=NC1CCCCC1)C1CCCCC1)=O)=O | C18H26N2O3S
